US06537948B1
To a mixture of 3-hydroxy-6-methoxy-2-(methoxycarbonyl)methoxypyridine, 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene and N,N-dimethylformamide is added potassium carbonate, and the mixture is stirred for 2 hours at 70° C. The reaction solution is cooled to room temperature, then, poured into ice water, and extracted with ethyl acetate. The organic layer is washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue is subjected to silica gel column chromatography to obtain 3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-6-methoxy-2-(methoxycarbonyl)methoxypyridine.

reactant | 3-hydroxy-6-methoxy-2-(methoxycarbonyl)methoxypyridine | OC=1C(=NC(=CC1)OC)OCC(=O)OC | C9H11NO5
reactant | 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene | FC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)[N+](=O)[O-] | C12H6F5N3O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-6-methoxy-2-(methoxycarbonyl)methoxypyridine | FC1=CC(=C(OC=2C(=NC(=CC2)OC)OCC(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C21H16F4N4O9
